US07312235B2
1-{[4-(N-{4-chloro-2-[N-(4-ethynylphenyl)carbamoyl]phenyl}carbamoyl)phenyl]iminomethyl}-piperidine-4-carboxylic Acid
To a solution of ethyl 1-{[4-(N-{4-chloro-2-[N-(4-ethynylphenyl)carbamoyl]phenyl}carbamoyl)-phenyl]iminomethyl}piperidine-4-carboxylate in EtOH was added 1N aq. LIOH (1 mL). The mixture was stirred for 3 hours, concentrated and purified by RP-HPLC to give the titled compound. MS found for C29H25ClN4O4 (M+1)+: 529.1.

reactant | ethyl 1-{[4-(N-{4-chloro-2-[N-(4-ethynylphenyl)carbamoyl]phenyl}carbamoyl)-phenyl]iminomethyl}piperidine-4-carboxylate | ClC1=CC(=C(C=C1)NC(=O)C1=CC=C(C=C1)N=CN1CCC(CC1)C(=O)OCC)C(NC1=CC=C(C=C1)C#C)=O | C31H29ClN4O4
solvent | EtOH | CCO | C2H6O
product | 1-{[4-(N-{4-chloro-2-[N-(4-ethynylphenyl)carbamoyl]phenyl}carbamoyl)phenyl]iminomethyl}-piperidine-4-carboxylic Acid | ClC1=CC(=C(C=C1)NC(=O)C1=CC=C(C=C1)N=CN1CCC(CC1)C(=O)O)C(NC1=CC=C(C=C1)C#C)=O | C29H25ClN4O4
